US05952511
3,3-Bis(N'-(4-methylphenyl)ureido)indolin-2-one
To a solution of 12.0 g of anhydrous aluminum chloride in 150 ml of dry tetrahydrofuran were added successively a solution of 5.79 g of isatin-3,3-dimethylacetal in 150 ml of dry tetrahydrofuran and 9.0 g of p-tolylurea at 0° C. under a nitrogen atmosphere, and the mixture was heated under reflux for 40 minutes. Ethyl acetate was added to the reaction mixture, and the mixture was washed twice with an aqueous solution of sodium chloride. The organic layer was dried over anhydrous sodium sulfate, followed by concentration. To the residue was added 150 ml of ethyl ether, and insoluble matter was removed by filtration. The filtrate was concentrated and recrystallized from acetone to yield 4.61 g (36%) of the title compound as a white powder.

reactant | aluminum chloride | 12.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | p-tolylurea | 9.0 g | C1(=CC=C(C=C1)NC(=O)N)C | C8H10N2O
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 3,3-Bis(N'-(4-methylphenyl)ureido)indolin-2-one | 4.61 g, 36% | CC1=CC=C(C=C1)NC(NC1(C(NC2=CC=CC=C12)=O)NC(=O)NC1=CC=C(C=C1)C)=O | C24H23N5O3
